US07994185B2
Step F: N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-chlorophenyl}-2-furansulfonamide
Following a procedure analogous to the procedure described in Example 21 using N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2-furansulfonamide (0.100 g, 0.186 mmol) and ammonium hydroxide (1.21 mL, 9.29 mmol) heated to 120° C. for 20 min in a microwave reactor the title compound was obtained as a white solid (54 mg, 0.104 mmol, 56.0% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.47 (s, 1H), 7.90 (d, J=5.5 Hz, 2H), 7.43 (d, J=3.8 Hz, 2H), 7.30 (d, J=3.3 Hz, 1H), 7.03 (d, J=3.3 Hz, 1H), 6.43-6.62 (m, 3H), 5.47 (d, J=5.3 Hz, 1H), 3.71 (t, J=4.7 Hz, 4H), 3.45 (t, J=4.7 Hz, 4H). MS (ESI): 519.00 [M+H]+.

reactant | N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2-furansulfonamide | 0.186 mmol, 0.100 g | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)N1CCOCC1)NS(=O)(=O)C=1OC=CC1 | C21H17Cl2N5O4S2
reactant | ammonium hydroxide | 9.29 mmol, 1.21 mL | [OH-].[NH4+]
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-chlorophenyl}-2-furansulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C=1OC=CC1)Cl | C21H19ClN6O4S2
